US09029560B2
Preparation of 1-(o-tolylcarbamothioyl)-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (PC118)
The title compound was prepared as described in Example 63 using 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (CA18) and 1-(o-tolyl)thiourea. Sodium acetate was used in place of sodium bicarbonate. The title compound was isolated as a white solid (0.075 g, 24%): 1H NMR (400 MHz, DMSO-d6) δ 12.03 (s, 1H), 10.05 (s, 1H), 9.40 (s, 1H), 8.12-8.04 (m, 2H), 8.01-7.92 (m, 2H), 7.68-7.57 (m, 3H), 7.46 (t, J=7.6 Hz, 1H), 7.36 (dt, J=7.7, 1.4 Hz, 1H), 7.29-7.24 (m, 1H), 7.24-7.13 (m, 2H), 7.10 (t, J=5.7 Hz, 1H), 3.18 (q, J=6.5 Hz, 2H), 2.73 (t, J=7.6 Hz, 2H), 2.20 (s, 3H), 1.93-1.74 (m, 2H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 555 ([M+H]+), 553 ([M−H]−).

reactant | 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C=1C=C(C=CC1)CCCN)(F)F | C18H17F3N4O
reactant | 1-(o-tolyl)thiourea | C1(=C(C=CC=C1)NC(=S)N)C | C8H10N2S
reactant | Sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-(o-tolylcarbamothioyl)-3-[3-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | C1(=C(C=CC=C1)NC(=S)NC(=O)NCCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C27H25F3N6O2S
